US04027035
Formic acid (4.5 ml.) and water (0.5 ml.) were added to the 2-phenyl-N,α-dimethyl-1-adamantaneethylamine (1.0 g.) followed by a 40 percent formaldehyde solution (5 ml.). The mixture was heated on a boiling water bath for seven hours and then allowed to stand overnight. The aqueous solvents were removed in vacuo and the residue treated with dilute hydrochloric acid. Excess acid was removed in vacuo and the oily residue extracted between 3N sodium hydroxide and ether. The organic phase was washed twice with water and dried over magnesium sulfate. The ether was then removed in vacuo to leave 1.1 g. of the base as an oil. The base was dissolved in dry ether, and ethereal hydrochloric acid was added in excess. The resulting precipitate was filtered off and dried in vacuo, and then crystallized from an ethanol-ether mixture to yield 0.3 g. of crystals. Recrystallization from an ethanol-ether mixture yielded 2-phenyl-N,N,α-trimethyl-1-adamantaneethylamine hydrochloride, m.p., 186° -90° C.

reactant | Formic acid | 4.5 ml | C(=O)O | CH2O2
reactant | 2-phenyl-N,α-dimethyl-1-adamantaneethylamine | 1.0 g | C1(=CC=CC=C1)C1C2(CC3CC(CC1C3)C2)CC(NC)C | C20H29N
reactant | formaldehyde | 5 ml | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | water | 0.5 ml | O | H2O
product | 2-phenyl-N,N,α-trimethyl-1-adamantaneethylamine hydrochloride | Cl.C1(=CC=CC=C1)C1C2(CC3CC(CC1C3)C2)CC(N(C)C)C | InChI=1S/C21H31N.ClH/c1-15(22(2)3)12-21-13-16-9-17(14-21)11-19(10-16)20(21)18-7-5-4-6-8-18;/h4-8,15-17,19-20H,9-14H2,1-3H3;1H
